US07585878B2
Into 150 ml of water were suspended 55.9 g of sodium carbonate and 38.6 g of phenylboronic acid. Thereto was added 51.4 g of ethyl 4-bromo-3-methylbenzoate dissolved in 400 ml of toluene and then was added 4.0 g of tetrakistriphenylphosphine palladium, followed by 2 hours of reflux with heating. After the reaction solution was cooled to room temperature, filtration was conducted using celite, water was added to the filtrate and the organic layer was extracted with toluene. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was removed by evaporation and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate) to obtain 50.4 g of ethyl 2-methylbiphenyl-4-carboxylate as a colorless oil.

reactant | water | 150 ml | O | H2O
reactant | sodium carbonate | 55.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboronic acid | 38.6 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl 4-bromo-3-methylbenzoate | 51.4 g | BrC1=C(C=C(C(=O)OCC)C=C1)C | C10H11BrO2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-methylbiphenyl-4-carboxylate | 50.4 g | CC1=C(C=CC(=C1)C(=O)OCC)C1=CC=CC=C1 | C16H16O2
